US06090841
Step B: (L)-Homophenylalanine, tert-butyl ester
A solution of (N-carbobenzyloxy)-(L)-homophenylalanine, tert-butyl ester (100 mg, 0.281 mmol) in anhydrous ethanol (2 mL) and anhydrous ethyl acetate (2 mL) was degassed and the reaction flask filled with hydrogen. 10% Palladium on carbon catalyst (25 mg) was added and the mixture was hydrogenated under a balloon of hydrogen at room temperature for 2.3 hr. The catalyst was removed by filtration through a pad of celite, and solvent was removed from the filtrate by rotoevaporation. After pumping under reduced pressure at room temperature, the material thus obtained (homogeneous by TLC in 4/1 hexane/ethyl acetate) was used in the subsequent reaction without further purification.

reactant | (N-carbobenzyloxy)-(L)-homophenylalanine, tert-butyl ester | 0.281 mmol, 100 mg | C(=O)(OCC1=CC=CC=C1)N[C@@H](CCC1=CC=CC=C1)C(=O)OC(C)(C)C | C22H27NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 25 mg | [Pd] | Pd
product | (L)-Homophenylalanine, tert-butyl ester | N[C@@H](CCC1=CC=CC=C1)C(=O)OC(C)(C)C | C14H21NO2
